US09163008B2
To a mixture of the (S)-methyl 3-((6-carbamoyl-2-chloropyrimidin-4-yl)amino)-2-hydroxypropanoate (0.408 g, 1.49 mmol) in dioxane (10 mL) was added 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.517 g, 1.65 mmol), 2M aqueous Na2CO3 (1.50 mL, 3.00 mmol) and PdCl2(dppf) (0.066 g, 0.081 mmol). The reaction vessel was flushed with argon, sealed and heated at 100° C. overnight. After cooling, the reaction mixture was diluted with acetone and decanted. Water was added to the insoluble residue to make a suspension. The solid was filtered, washed successively with water, acetone, 1N aqueous HCl then MeOH. The solid was dried under vacuum at 40° C. to give the product (S)-3-((6-carbamoyl-2-(4-(4-fluorophenoxy)phenyl)pyrimidin-4-yl)amino)-2-hydroxypropanoic acid as a light tan powder (0.053 g, 0.13 mmol, 9% yield). 1H NMR (400 MHz, DMSO-d6): 12.61 (1H, s), 8.53 (2H, d, J=8.3 Hz), 8.27 (1H, s), 7.99-7.93 (1H, s), 7.73 (1H, s), 7.31-7.24 (2H, m), 7.19-7.13 (2H, m), 7.08-7.01 (3H, m), 5.60 (1H, s), 4.26 (1H, s), 3.90-3.80 (1H, s), 3.64-3.54 (1H, m). LC/MS: m/z=413.1 [M+H]+.

reactant | (S)-methyl 3-((6-carbamoyl-2-chloropyrimidin-4-yl)amino)-2-hydroxypropanoate | 1.49 mmol, 0.408 g | C(N)(=O)C1=CC(=NC(=N1)Cl)NC[C@@H](C(=O)OC)O | C9H11ClN4O4
reactant | 2-(4-(4-fluorophenoxy)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.65 mmol, 0.517 g | FC1=CC=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C18H20BFO3
reactant | Na2CO3 | 3.00 mmol, 2M, 1.50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.081 mmol, 0.066 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-((6-carbamoyl-2-(4-(4-fluorophenoxy)phenyl)pyrimidin-4-yl)amino)-2-hydroxypropanoic acid | 0.13 mmol, 0.053 g, 9% yield | C(N)(=O)C1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)NC[C@@H](C(=O)O)O | C20H17FN4O5
